US04806144
10 g (0.034 mole) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole are dissolved in 35 ml of pyridine. 21.4 g (0.068 mole) of 47% chloromethanesulphonyl chloride, dissolved in 1,2-dichlorobenzene, are added dropwise at 0° C. to 5° C. The mixture is stirred for five hours, during which the temperature slowly rises to 20° C. The mixture is then poured into ice-water and extracted with methylene chloride. The organic phase is separated off, washed with dilute hydrochloric acid and extracted three times with 100 ml of saturated sodium bicarbonate solution. The combined aqueous phases are brought to pH 1 with 10% strength hydrochloric acid and the product which has precipitated is taken up in methylene chloride. The methylene chloride phase is separated off, washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated. 8.7 g (63% of theory) of 5-chloromethanesulphonamido-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole of melting point 63°-66° C. are obtained.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 0.034 mole, 10 g | NC1=CC=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H6Cl2F3N3
reactant | chloromethanesulphonyl chloride | 0.068 mole, 21.4 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-chloromethanesulphonamido-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 8.7 g, 63% | ClCS(=O)(=O)NC1=CC=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C11H7Cl3F3N3O2S
